US07435837B2
(±)-{[7-(2,5-difluorophenyl)-5-fluoro-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine
The title compound was prepared (0.73 g, 44%) following the general procedure of Example 390 as a white solid, hydrochloride salt from (±)-[7-(2,5-difluorophenyl)-5-fluoro-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (0.22 g, 0.51 mmol) and methylamine (0.155 g, 5.1 mmol). mp 185-187° C.

reactant | (±)-[7-(2,5-difluorophenyl)-5-fluoro-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 0.51 mmol, 0.22 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2C2=C(C=CC(=C2)F)F)F | C22H17F3O4S
reactant | methylamine | 5.1 mmol, 0.155 g | CN | CH5N
product | (±)-{[7-(2,5-difluorophenyl)-5-fluoro-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine | FC1=C(C=C(C=C1)F)C1=CC(=CC=2CC(OC21)CNC)F | C16H14F3NO
